US08455598B2
Synthesis of (Z)-3-(cyclooct-4-enyl)propanenitrile
Repeated attempts at purification by distillation (94-95° C./1.3 mm Hg) produced two fractions of the material as a clear odorous liquid, 8.1 g (82.0% purity by GC) and 1.49 g (85.0%). The balance of the material, as assayed by GC/MS, consisted of Bu3SnBr (largest impurity, ˜3.6 wt %). Other impurities included Bu4Sn, hexanedinitrile, C11H16 isomers, cyanoethyl [3.3.0]cyclooctane ((octahydropentalen-3a-yl)propanenitrile), hexadecane (unconfirmed), and possibly bicyclo[3.3.0]octene. A third separately prepared batch of material (50 g) was free of butyl-containing impurities by 1H NMR and was noted to be free of Sn-containing impurities, but still showed a complex GC/MS spectrum. 1H NMR (CDCl3, 400 MHz, 25° C.): δ 5.63 (m, CH═CH), 2.32, 2.14, 1.57, 1.42, 1.19 (all br m, CH2 and CH) ppm. 13C NMR (CDCl3, 100 MHz, 25° C., assigned by DEPT): δ 129.90, 129.72 (CH═CH), 119.82 (CN), 36.34 (CH), 34.55, 33.84, 32.07, 27.73, 25.75, 24.62 (CH2), 14.84 (CH2CN) ppm. IR (crude material, neat on NaCl): 3012 (m), 2922 (vs), 2852 (s), 2682 (w), 2240 (s, υCN), 1685 (w), 1647 (w), 1464 (s), 1449 (s), 1421 (sh), 1345 (m), 1252 (w), 1129 (w), 988 (w), 965 (w), 899 (sh), 880 (m), 744 (m), 720 (s) cm−1, n(20/D) 1.49. Molecular weight of C11H17N: 163.26 g/mol.

reactant | Bu3SnBr | [Sn](CCCC)(CCCC)(CCCC)Br
reactant | Bu4Sn | [Sn](CCCC)(CCCC)(CCCC)CCCC
reactant | hexanedinitrile | C(CCCCC#N)#N | C6H8N2
reactant | hexadecane | CCCCCCCCCCCCCCCC | C16H34
reactant | bicyclo[3.3.0]octene | C12=CCCC2CCC1 | C8H12
product | (Z)-3-(cyclooct-4-enyl)propanenitrile | C1(CC\C=C/CCC1)CCC#N | C11H17N
